US07838543B2
4′-Fluoro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-amide; Isomer 2
Combine rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.700 g, 2.69 mmol), 4′-fluoro-biphenyl-4-carboxylic acid (0.872 g, 4.03 mmol), HATU (1.43 g, 3.76 mmol), polystyrene-bound diisopropylamine (7.53 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (15 mL). Shake the mixture overnight at room temperature. Filter the mixture and wash the polystyrene resin with 1:1 CH2Cl2/MeOH. Subject the mixture to flash column chromatography on an ISCO Companion (120 g column, eluting with 20% 2M NH3 in MeOH/CH2Cl2) to yield a mixture of products. Subject the mixture to flash column chromatography (3×40 g, eluting with 20% 2M NH3 in MeOH/CH2Cl2) to yield a mixture of products. Concentrate the fractions and suspend the residue in anhydrous diethyl ether. Stir at room temperature for 3 d. Filter the mixture to yield the product as a white solid (0.375 g, 30%). Submit the racemic mixture to chiral chromatography to yield the product (0.187 g) as the second eluting enantiomer; mass spectrum (m/e): 459.2 (M+1), 457.3 (M−1). 1H NMR (400 MHz, DMSO-d6): δ 10.22 (s, 1H), 8.07-8.03 (m, 2H), 7.85-7.79 (m, 4H), 7.73 (d, J=2.0 Hz, 1H), 7.40-7.31 (m, 4H), 3.50 (d, J=7.6 Hz, 2H), 3.13 (s, 3H), 2.65-2.56 (m, 1H), 2.54-2.47 (m, 2H), 2.43-2.36 (m, 1H), 2.29-2.24 (m, 1H), 2.23 (s, 3H), 1.93-1.84 (m, 1H), 1.49-1.40 (m, 1H).

reactant | rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 2.69 mmol, 0.700 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 4′-fluoro-biphenyl-4-carboxylic acid | 4.03 mmol, 0.872 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
reactant | HATU | 3.76 mmol, 1.43 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4′-Fluoro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-amide | 0.375 g, 30% | CN(C=1OC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)CC2CN(CC2)C | C27H27FN4O2
